US07872026B2
260 mg (1.73 mmol) of sodium iodide are added to a solution of 640 mg (1.16 mmol) of ethyl 4′-(3-bromopropoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate in 40 ml of acetone. The reaction mixture is stirred overnight at room temperature. The precipitate formed is filtered off and the filtrate is evaporated. 608 mg of ethyl 4′-(3-iodopropoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate are obtained in the form of a white solid (m.p.=118° C., yield=71%).

reactant | sodium iodide | 1.73 mmol, 260 mg | [I-].[Na+]
reactant | ethyl 4′-(3-bromopropoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 1.16 mmol, 640 mg | BrCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C32H37BrO3
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | ethyl 4′-(3-iodopropoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 608 mg | ICCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C32H37IO3
